US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({3′-[(3,4-dimethyl-1-piperazinyl)methyl]-6-fluoro-3-biphenylyl}methyl)-1,3-benzenedicarboxamide
A mixture of N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-formyl-3-biphenylyl)methyl]-1,3-benzenedicarboxamide (150 mg, 0.226 mmol), 1,2-dimethylpiperazine (45.7 mg, 0.40 mmol), sodium triacetoxyborohydride (95 mg, 0.45 mmol) and AcOH (18 μl, 0.314 mmol) in 1,2-dichloroethane (DCE) (6 mL) was stirred overnight at room temperature. LC/MS showed that the reaction was complete. The reaction was diluted with EtOAc; the organic layer washed with dilute aq. NaOH, then sat. aq. NaCl and dried [Na2SO4], then concentrated to a viscous taffy. The material was purified on a Gilson HPLC using reverse phase (acetonitrile-water with 0.1% TFA). Fractions containing the desired product were combined, the MeOH removed, the aqueous layer treated with EtOAc and 1N NaOH. The mixture was vigorously extracted with EtOAc (2×), the extract was washed with a small amount of sat. aq. NaCl; dried [Na2SO4], then concentrated to a glassy, creamy tan, coloured foam (0.1002 g). LC-MS m/z 761.5 (M+H)+, 0.76 min (ret time).

reactant | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-formyl-3-biphenylyl)methyl]-1,3-benzenedicarboxamide | 0.226 mmol, 150 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)C=O)CC | C38H39FN6O4
reactant | 1,2-dimethylpiperazine | 0.40 mmol, 45.7 mg | CN1C(CNCC1)C | C6H14N2
reactant | sodium triacetoxyborohydride | 0.45 mmol, 95 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | AcOH | 0.314 mmol, 18 μl | CC(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 6 mL | ClCCCl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({3′-[(3,4-dimethyl-1-piperazinyl)methyl]-6-fluoro-3-biphenylyl}methyl)-1,3-benzenedicarboxamide | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CN2CC(N(CC2)C)C)CC | C44H53FN8O3
